US03957833
By utilizing the procedure of Example 19, by reacting p-hydroxybenzoic acid methyl ester with 2-bromo-5,6-dimethyl heptane, there is obtained p-[(1,4,5-trimethylhexyl)oxy]benzoic acid methyl ester; nD25 = 1.4938.

reactant | p-hydroxybenzoic acid methyl ester | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 2-bromo-5,6-dimethyl heptane | BrC(C)CCC(C(C)C)C | C9H19Br
product | p-[(1,4,5-trimethylhexyl)oxy]benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC(CCC(C(C)C)C)C)=O | C17H26O3
